US04801717
28.2 g of p-fluoro-nitrobenzene were added to 20° C. to 10.4 ml of bromine and then 20 ml of water followed by 180 ml of concentrated sulfuric acid were added thereto at 0° C. 34 g of silver sulfate were added to the mixture and the temperature was allowed to rise to 20°-25° C. and the mixture was stirred for 16 hours and was poured into water. The mixture was filtered and the filter was washed with water and methylene chloride. The filtrate was extracted with methylene chloride and the organic phase was washed with water, dried over magnesium sulfate, filtered and evaporated to dryness under reduced pressure. The residue was dissolved in isopropyl ether and crystallized therefrom. The mixture was filtered and the product was washed to obtain 8.2 g of 3-bromo-4-fluoro-nitrobenzene melting at 59° C. Using the procedure of Example 1, the latter was reacted to obtain 0-(4-nitro-2-bromo-phenyl)-hydroxylamine melting at 122° C.

reactant | p-fluoro-nitrobenzene | 28.2 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | bromine | BrBr | Br2
reactant | sulfuric acid | 180 ml | S(O)(O)(=O)=O | H2O4S
catalyst | silver sulfate | 34 g | S(=O)(=O)([O-])[O-].[Ag+2]
solvent | water | O | H2O
solvent | water | 20 ml | O | H2O
product | 3-bromo-4-fluoro-nitrobenzene | 8.2 g | BrC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3BrFNO2
